US06451295B1
Phase A: 6% PPG-3 myristyl ether (Witconol APM from Witco, Dublin, Ohio);
1.5% dialkoxy-polydimethylsiloxane (Abil wax 2440 from Goldschmidt, Hopewell, Va.); 1.5% isostearyl alcohol; 5.8% phenyltrimethicone; 26.2% cyclopentasiloxane; 18% siliconized polyamide; 1% fragrance.

reactant | isostearyl alcohol | C(CCCCCCCCCCCCCCC(C)C)O | C18H38O
reactant | cyclopentasiloxane | O1[SiH2]O[SiH2]O[SiH2]O[SiH2]O[SiH2]1 | H10O5Si5
product | PPG-3 myristyl ether | CCCCCCCCCCCCCCOCCCO | C17H36O2
